US06667316B1
A mixture of 4-(aminomethyl)-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]isoindoline-1,3-dione (0.34 g, 0.79 mmol) and 2,5-dimethoxytetrahydrofuran (0.10 g, 0.79 mmol) in acetic acid (5 mL) was heated to reflux for 1 hour. The reaction mixture was then concentrated in vacuo and the residue was stirred with ethyl. acetate (50 mL) and saturated sodium bicarbonate (25 mL). The organic layer was washed with water (25 mL), brine (25 mL), dried and concentrated. The residue was purified by flash chromatography (methylene chloride:ethyl acetate, 95:5) to afford 2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-(pyrrolylmethyl)isoindoline-1,3-dione (0.23 g, 60% yield): mp 80-82° C.; 1H NMR (CDCl3) δ7.71 (d, J=7.3 Hz, 1H, Ar), 7.57 (t, J=7.7 Hz, 1H, Ar), 7.26 (m, 2H, Ar), 7.15 (d, J=7.0 Hz, 2H, Ar), 6.96 (d, J=7.8 Hz, 1H, Ar), 6.71 (d, J=1.7 Hz, 1H, Ar), 6.22 (d, J=1.8 Hz, 1H, Ar), 5.94-5.88 (dd, J=4.4 and 10.3 Hz, 1H, NCH), 5.57 (s, 2H, CH2), 4.63-4.53 (dd, J=10.7, 14.4 Hz, 1H, CHH), 4.13 (q, J=7.0 Hz, 2H, CH2), 3.85 (s, 3H, CH3), 3.80-3.72 (dd, J=4.4, 14.4 Hz, 1H, CHH), 2.86 (s, 3H, CH3), 1.47 (t, J=6.9 Hz, 3H, CH3); 13C NMR (CDCl3) δ168.08, 167.69, 149.72, 148.63, 138.71, 134.74, 132.65, 131.86, 129.44, 126.92, 122.69, 121.46, 120.47, 112.49, 111.44, 109.15, 64.51, 55.95, 54.65, 48.73, 48.57, 41.58, 14.69; Anal. Calcd for C25H26N2O6S: C, 62.23; H, 5.43; N, 5.81; S, 6.64. Found: C, 62.25; H, 5.56; N, 5.63; S, 6.83.

reactant | 4-(aminomethyl)-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]isoindoline-1,3-dione | 0.79 mmol, 0.34 g | NCC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O | C21H24N2O6S
reactant | 2,5-dimethoxytetrahydrofuran | 0.79 mmol, 0.10 g | COC1OC(CC1)OC | C6H12O3
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-(pyrrolylmethyl)isoindoline-1,3-dione | 0.23 g, 60% yield | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)CC=1NC=CC1)=O | C25H26N2O6S
